US06534524B1
To a solution of 1-Fluoro-2-isocyanato-4-nitro-benzene (9.82 g, 54 mmol) in THF (40 ml) at 23° C. under an atmosphere of argon was added 2-Trimethylsilanyl-ethanol (7.72 ml, 54 mmol). The resulting mixture was stirred for 11 hours then heated to 50° C. for 2 hours. The reaction mixture was allowed to cool to 23° C. quenched with saturated NaHCO3 (aq) and extracted with EtOAc (3×100 ml). The pooled ethyl acetate was washed with 1N HCl (aq) (2×90 ml) water (90 ml) and brine (90 ml), dried with Na2SO4, filtered and concentrated to a yellow solid. Silica gel chromatography (2:8 ethyl acetate-hexane) provided (2-Fluoro-5-nitro-phenyl)-carbamic acid 2-trimethylsilanyl-ethyl ester (12.3 g, 77%). 1H NMR (300 MHz, CDCl3) δ 9.06 (dd, 1H, J=6.89 Hz, J=2.63 Hz), 7.89 (m, 1H), 7.20 (m, 1H), 6.91 (bs, 1H), 4.31 (t, 2H, J=8.67 Hz), 1.06 (t, 2H, J=8.67 Hz), 0.05 (s, 9H). LCMS (ESI−) [M+H]/z Calc'd 299, found 299.

reactant | 1-Fluoro-2-isocyanato-4-nitro-benzene | 54 mmol, 9.82 g | FC1=C(C=C(C=C1)[N+](=O)[O-])N=C=O | C7H3FN2O3
reactant | 2-Trimethylsilanyl-ethanol | 54 mmol, 7.72 ml | C[Si](CCO)(C)C | C5H14OSi
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | (2-Fluoro-5-nitro-phenyl)-carbamic acid 2-trimethylsilanyl-ethyl ester | 12.3 g, 77% | C[Si](CCOC(NC1=C(C=CC(=C1)[N+](=O)[O-])F)=O)(C)C | C12H17FN2O4Si
